US07737301B2
3.7 g of 2-(2-bromophenyl)bicyclopropyl (15.6 mmol, trans/cis ratio of about 3:1), 2.0 g of benzylamine (18.7 mmol), 2.1 g of sodium tert-butanolate (21.8 mmol), 3.5 mg of Pd(II) acetate (0.016 mmol) and 8.6 mg of R(−)-di-tert-butyl-[1-[(S)-2-(dicyclohexylphosphanyl)-ferrocenyl]ethyl]phosphine (0.016 mmol) are dissolved in 30 ml of dimethoxyethane. The reaction mixture is heated to 70° C. and stirred for 24 hours. After cooling, ethyl acetate is added. The organic phase is washed with water. The solvent is removed using a water jet vacuum and the residue is dried. The product is purified by column chromatography on silica gel (eluant:ethyl acetate/hexane 1:15). 3.47 g of benzyl(2-bicyclopropyl-2-yl-phenyl)amine (84% of theory) are obtained in the form of a brown oil (trans/cis ratio of about 3:1).

reactant | 2-(2-bromophenyl)bicyclopropyl | 15.6 mmol, 3.7 g | BrC1=C(C=CC=C1)C1C(C1)C1CC1 | C12H13Br
reactant | benzylamine | 18.7 mmol, 2.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butanolate | 21.8 mmol, 2.1 g | C(C)(C)(C)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
product | benzyl(2-bicyclopropyl-2-yl-phenyl)amine | 3.47 g, 84% | C(C1=CC=CC=C1)NC1=C(C=CC=C1)C1C(C1)C1CC1 | C19H21N
